' 
V1  1  0  SIN  offset= 0.  amplitude= 1.  frequency= 1.  delay= 0.
+  damping= 0.
C1  1  0  1.
F1  2  0  C1  1.
R1  2  0  1.
R2  3  0  1.
.tcap C2  3  0  1  0  1.
.print tran v nodes iter(0) control(0)
.tran 0 1 .1 trace rejected
.option trtol=1 reltol=.00001
.tran 0 1 .1 trace rejected
.status notime
.end
